US07781438B2
Preparation of N,N-Diethyl-2-formyl-6-methoxy-benzamide
Sec-butyl lithium (99.6 ml, 1.3 M in cyclohexane, 129.45 mmol, 1.3 equiv) was added dropwise at −78° C. to a solution of N,N,N′,N′-tetramethyl-ethane-1,2-diamine (15.04 g, 129.45 mmol, 1.3 equiv) in anhydrous THF (400 ml) under an atmosphere of argon. After 30 minutes at −78° C., a solution of N,N-diethyl-2-methoxy-benzamide (20.64 g, 99.58 mmol) in THF (100 ml) was added dropwise over 50 minutes. After 2 hours at −78° C., N,N-dimethylformamide (8.74 g, 119.49 mmol, 1.2 equiv) was added dropwise. 30 minutes after complete addition, TLC analysis indicated complete conversion. 6N aqueous HCl (90 ml) was carefully added at 0° C. After phase separation, the aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine (2×100 ml), dried over Na2SO4, filtered and concentrated in vacuo to yield the title compound (24.71 g, quant.) in adequate purity for direct use in the next transformation. 1H NMR (400 MHz, CDCl3): δ=9.99 (s, 1H), 7.52 (dd, J=6.6/1.0 Hz, 1H), 7.46 (t, 7.6 Hz, 1H), 7.15 (dd, J=8.3/1.2 Hz, 1H), 3.86 (s, 3H), 3.78-3.68 (m, 1H), 3.58-3.49 (m, 1H), 3.10 (q, J=7.1 Hz, 2H), 1.29 (t, J=7.1 Hz, 3H), 1.01 (t, J=7.3 Hz, 3H). MS (ES+): 236 (M+H)+.

reactant | Sec-butyl lithium | 129.45 mmol, 1.3 M, 99.6 ml, 1.3 equiv | C(C)(CC)[Li]
reactant | N,N,N′,N′-tetramethyl-ethane-1,2-diamine | 129.45 mmol, 15.04 g, 1.3 equiv | CN(CCN(C)C)C | C6H16N2
reactant | N,N-diethyl-2-methoxy-benzamide | 99.58 mmol, 20.64 g | C(C)N(C(C1=C(C=CC=C1)OC)=O)CC | C12H17NO2
reactant | N,N-dimethylformamide | 119.49 mmol, 8.74 g, 1.2 equiv | CN(C=O)C | C3H7NO
reactant | HCl | 6N, 90 ml | Cl | ClH
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N,N-Diethyl-2-formyl-6-methoxy-benzamide | 24.71 g | C(C)N(C(C1=C(C=CC=C1OC)C=O)=O)CC | C13H17NO3
